US07223879B2
4-(4-Butyl-phenylamino)-benzamide
An oven-dried resealable Schlenk flask was evacuated and backfilled with argon. The flask was charged with Pd2(dba)3 (4.6 mg, 0.005 mmol, 1 mol % Pd), Ligand 1 (9.4 mg, 0.02 mmol, 2 mol %), ground K2CO3 (193 mg, 1.4 mmol), and 4-amino-benzamide (163 mg, 1.2 mmol). The flask was evacuated and backfilled with argon (3×) and then capped with a rubber septum. To the flask was added t-BuOH (1.5 mL), 4-n-butyl-chlorobenzene (168 mg, 1.0 mmol) and t-BuOH (0.5 mL). The septum was replaced with a Teflon screwcap, the flask was sealed, and the mixture was heated to 110° C. with stirring until the starting aryl chloride was consumed by GC analysis (19 h). The reaction was cooled to room temperature, diluted with ethyl acetate, filtered through Celite, and concentrated under reduced pressure. The crude material was purified by column chromatography on silica gel (eluting with EtOAc/hexanes, 8:2) to give the desired product as a white solid (235 mg, 88%).

reactant | K2CO3 | 1.4 mmol, 193 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-amino-benzamide | 1.2 mmol, 163 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
reactant | 4-n-butyl-chlorobenzene | 1.0 mmol, 168 mg | C(CCC)C1=CC=C(C=C1)Cl | C10H13Cl
catalyst | Pd2(dba)3 | 0.005 mmol, 4.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1-Bis(4-methylphenyl)-3-methyl-2-butanone | 0.02 mmol, 9.4 mg | CC1=CC=C(C=C1)C(C(C(C)C)=O)C1=CC=C(C=C1)C | C19H22O
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
solvent | t-BuOH | 1.5 mL | CC(C)(C)O | C4H10O
product | 4-(4-Butyl-phenylamino)-benzamide | 235 mg, 88% | C(CCC)C1=CC=C(C=C1)NC1=CC=C(C(=O)N)C=C1 | C17H20N2O
